US08217065B2
{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(2-methyl-pyridin-4-yl)-amine
Combine 4-amino-3-methyl-pyridine (66 mg, 0.606 mmol) and di-imidazol -1-yl-methanethione (108 mg, 0.606 mmol) in DMF (1.5 mL) and stir overnight. Add 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.466 mmol) and DMF (1.5 mL). Heat to 80° C. for 1 hr. Add EDCI (179 mg, 0.932 mmol) and heat to 80° C. for 1 hr. Upon cooling, dilute the reaction with EtOAc (75 mL) and extract with water (15 mL). Dry the organic phase over Na2SO4 and concentrate. Take the concentrate up in boiling toluene/EtOAc and cool to 4° C. Collect the resulting precipitate and purify by reverse-phase HPLC (20-45% ACN/H2O+5 mM NH4OH) to afford the title compound as a light yellow solid: 1H NMR (400 MHz, DMSO-d6, 100° C.) δ ppm 2.46 (s, 3 H) 7.36 (dd, J=5.75, 2.14 Hz, 1 H) 7.42 (s, 1 H) 7.59-7.67 (m, 3 H) 7.81 (d, J=8.68 Hz, 1 H) 7.87 (dd, J=8.44, 1.47 Hz, 1 H) 8.16 (s, 1 H) 8.27 (d, J=5.69 Hz, 1 H); MS m/z=437.0 (M+1).

reactant | 4-amino-3-methyl-pyridine | 0.606 mmol, 66 mg | NC1=C(C=NC=C1)C | C6H8N2
reactant | di-imidazol -1-yl-methanethione | 0.606 mmol, 108 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.466 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDCI | 0.932 mmol, 179 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | {5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(2-methyl-pyridin-4-yl)-amine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)NC2=CC(=NC=C2)C | C21H14Cl2N6O
